US07220760B2
To a solution of Cis-N-(1-benzyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-cyclopropyl-acetamide (3.8 g) in ethanol (150 ml), ammonium formate (7.2 g) and few milligrams of palladium on charcoal (10% Pd/C) were added. The mixture was heated under reflux for 2 hours. After cooling the mixture was filtered on celite and the solvent was removed under reduce pressure to give Cis-N-cyclopropyl-N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-acetamide (2.56 g, 92.4% yield) which was not purified.

reactant | Cis-N-(1-benzyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-cyclopropyl-acetamide | 3.8 g | C(C1=CC=CC=C1)N1[C@H](C[C@H](C2=CC=CC=C12)N(C(C)=O)C1CC1)C | C22H26N2O
reactant | ammonium formate | 7.2 g | C(=O)[O-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | Cis-N-cyclopropyl-N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-acetamide | 2.56 g, 92.4% yield | C1(CC1)N(C(C)=O)[C@@H]1C[C@@H](NC2=CC=CC=C12)C | C15H20N2O
